US08541407B2
A solution of 3-(4-(chloromethyl)phenyl)-9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine (1.3 g, 3.62 mmol), tert-butyl piperidin-4-ylcarbamate (0.71 g, 3.80 mmol), triethylamine (1 mL) in dimethylacetamide (15 mL) was stirred at 75° C. for 20 hours. The mixture wass diluted with water (30 mL). The resulting suspension was stirred at room temperature. The solid was collected by filtration, washed thoroughly with water and dried under high vacuum. The tert-butyl (1-(4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzyl)piperidin-4-yl)carbamate was obtained as a yellow solid (1.3 g, 69%). M.p.=145-147° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.76 (s, 1H), 8.18 (dd, J=4.4, 1.2 Hz, 1H), 7.93 (dd, J=8.0, 1.2 Hz, 1H), 7.41 (td, J=8.0, 1.6 Hz, 1H), 7.35-7.30 (m, 5H), 7.15-7.08 (m, 2H), 6.87 (dd, J=8.0, 4.8 Hz, 1H), 6.76 (d, J=8.4 Hz, 1H), 3.45 (s, 2H), 3.21-3.06 (m, 1H), 2.80-2.65 (m, 2H), 2.0-1.9 (m, 2H), 1.7-1.6 (m, 2H), 1.4-1.3 (m, 2H), 1.34 (s, 9H); LCMS [M+H]: 524.

reactant | 3-(4-(chloromethyl)phenyl)-9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine | 3.62 mmol, 1.3 g | ClCC1=CC=C(C=C1)C1=NN=C2N1C1=C(NC3=C2C=CC=C3)N=CC=C1 | C20H14ClN5
reactant | tert-butyl piperidin-4-ylcarbamate | 3.80 mmol, 0.71 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylacetamide | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 30 mL | O | H2O
product | tert-butyl (1-(4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzyl)piperidin-4-yl)carbamate | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(CN4CCC(CC4)NC(OC(C)(C)C)=O)C=C3 | C30H33N7O2
